US08097610B2
Preparation of [3-[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylamino]methyl]phenyl]acetic acid methyl ester
A mixture of 1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylamine (500 mg), (3-bromomethylphenyl)acetic acid methyl ester (454 mg), potassium carbonate (284 mg) and dimethylformamide (6 mL) was stirred at room temperature for 1 hour. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (434 mg). Yield: 55%.

reactant | 1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylamine | 500 mg | ClC1=CC2=C(N=C(S2)N2CCC(CC2)N)C=C1 | C12H14ClN3S
reactant | (3-bromomethylphenyl)acetic acid methyl ester | 454 mg | COC(CC1=CC(=CC=C1)CBr)=O | C10H11BrO2
reactant | potassium carbonate | 284 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylamino]methyl]phenyl]acetic acid methyl ester | 434 mg, Yield: 55% | COC(CC1=CC(=CC=C1)CNC1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C22H24ClN3O2S
